US07067529B2
To a stirred solution of 1-(3-ethoxy-benzyl)-6-(2-hydroxy-ethoxy)-7-methoxy-isoquinoline-4-carbaldehyde (50 mg, 0.13 mmol) was added selenium dioxide (146 mg, 1.30 mmol). The reaction mixture was heated at 120° C. for 1 hr. The solvent was evaporated and the residue was diluted with dichloromethane (30 mL). The organic layer was washed with saturated aqueous sodium bicarbonate solution (20 mL), saturated aqueous sodium chloride solution (20 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford a crude oil. Flash chromatography (Merck Silica gel 60, 70–230 mesh, 40% ethyl acetate/hexane) afforded 1-(3-ethoxy-benzoyl)-6-(2-hydroxy-ethoxy)-7-methoxy-isoquinoline-4-carbaldehyde as a major product (52 mg, 99% yield).

reactant | 1-(3-ethoxy-benzyl)-6-(2-hydroxy-ethoxy)-7-methoxy-isoquinoline-4-carbaldehyde | 0.13 mmol, 50 mg | C(C)OC=1C=C(CC2=NC=C(C3=CC(=C(C=C23)OC)OCCO)C=O)C=CC1 | C22H23NO5
reactant | selenium dioxide | 1.30 mmol, 146 mg | [Se](=O)=O | O2Se
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1-(3-ethoxy-benzoyl)-6-(2-hydroxy-ethoxy)-7-methoxy-isoquinoline-4-carbaldehyde | C(C)OC=1C=C(C(=O)C2=NC=C(C3=CC(=C(C=C23)OC)OCCO)C=O)C=CC1 | C22H21NO6
